US06887863B2
(2S)-2-((tert-butoxycarbonyl)amino)-3-((cyclohexylmethyl)sulfanyl)propanoic acid
A solution of D-cysteine hydrochloride (4.78 g, 39.4 mmol) in liquid ammonia (250 mL) at −70° C. was slowly treated with sodium (3.78 g, 161 mmol), stirred for 30 minutes, treated with (bromomethyl)cyclohexane (6.33 mL, 45.4 mmol), warmed to room temperature, and stirred until the ammonia evaporated. The residue was treated with water (75 mL), isopropanol (50 mL) and di-tert-butyl dicarbonate (9.97 mL, 43.3 mmol), stirred for 24 hours, and concentrated. The concentrate was dissolved in water (150 mL), cooled to 0° C., adjusted to pH<7 with 3N HCl, and extracted with diethyl ether. The combined extracts were washed with brine, dried (MgSO4), filtered, and concentrated to provide the desired product.

reactant | D-cysteine hydrochloride | 39.4 mmol, 4.78 g | Cl.N[C@H](CS)C(=O)O
reactant | ammonia | 250 mL | N | H3N
reactant | sodium | 161 mmol, 3.78 g | [Na] | Na
reactant | (bromomethyl)cyclohexane | 45.4 mmol, 6.33 mL | BrCC1CCCCC1 | C7H13Br
reactant | di-tert-butyl dicarbonate | 43.3 mmol, 9.97 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
solvent | water | 75 mL | O | H2O
product | (2S)-2-((tert-butoxycarbonyl)amino)-3-((cyclohexylmethyl)sulfanyl)propanoic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CSCC1CCCCC1 | C15H27NO4S
